US07220773B2
2-Chloro-5-iodophenol
To a solution of 1-chloro-4-iodo-2-methoxybenzene (1.34 g, 5 mmol) in dichloromethane was dropped under ice cooling a solution of 0.91M boron tribromide in dichloromethane (6.6 ml, 6.00 mmol) and the mixture was reacted for 1 hour under ice cooling and then for 3 days at room temperature. To the mixture was added an aqueous sodium hydrogencarbonate solution and then the mixture was acidified with concentrated hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed and purified with silica gel chromatography (hexane:ethyl acetate, 10:1) to give the subject compound (1.11 g, 87%) as white crystals.

reactant | 1-chloro-4-iodo-2-methoxybenzene | 5 mmol, 1.34 g | ClC1=C(C=C(C=C1)I)OC | C7H6ClIO
reactant | boron tribromide | 0.91M | B(Br)(Br)Br | BBr3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 6.00 mmol, 6.6 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-iodophenol | 1.11 g, 87% | ClC1=C(C=C(C=C1)I)O | C6H4ClIO
